US06326495B2
1-Cyclopentyl-7-ethoxy-3-ethyl-4,5-dihydro-1H-pyrazolo[3,4-c]pyridine (10.0.0)
A solution of triethyloxonium tetrafluoroborate (3.371 kg, 17.74 moles) in methylene chloride (10.8 L) was slowly added to a suspension of 1-cyclopentyl-3-ethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one (3.6 kg, 15.43 moles) in methylene chloride (7.2 L) over a period of about 40 minutes. The solution was then allowed to react for about 21 hours at 18-22° C. After the reaction was complete, the organic solution was washed with aqueous 10 % sodium carbonate (36 L) and evaporated to an oil which was used directly in the next step. The yield for this step was 92.9%.

reactant | triethyloxonium tetrafluoroborate | 17.74 moles, 3.371 kg | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | 1-cyclopentyl-3-ethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 15.43 moles, 3.6 kg | C1(CCCC1)N1N=C(C2=C1C(NCC2)=O)CC | C13H19N3O
solvent | methylene chloride | 10.8 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7.2 L | C(Cl)Cl | CH2Cl2
product | 1-Cyclopentyl-7-ethoxy-3-ethyl-4,5-dihydro-1H-pyrazolo[3,4-c]pyridine | C1(CCCC1)N1N=C(C2=C1C(=NCC2)OCC)CC | C15H23N3O
